US08048909B2
tert-Butyl {[4-ethyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate
Using tert-butyl {[5-bromo-4-ethyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (1.13 g), phenylboronic acid (462 mg), sodium carbonate (789 mg) and tetrakis(triphenylphosphine)palladium (431 mg), a procedure as in Reference Example 56 was performed to give the title compound as a brown oil (yield 602 mg, 54%).

reactant | tert-butyl {[5-bromo-4-ethyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 1.13 g | BrC1=C(C(=CN1S(=O)(=O)C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C)CC | C19H25BrN2O4S
reactant | phenylboronic acid | 462 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 789 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 431 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl {[4-ethyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | yield 602 mg, 54% | C(C)C=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C | C25H30N2O4S
